US07776857B2
To a solution of N-(4-(6-nitroquinolin-4-ylthio)phenyl)-4-phenylphthalazin-1-amine (228 mg, 455 μmol) in 1 mL of DMF, was added tin (II) chloride (431 mg, 2273 μmol) and 115 uL of water. After 15 minutes of sonication, the reaction was stirred at rt. After 2 days, water was removed under vacuum azeotropically with benzene. DCM was added to the suspension. Yellow solids precipitated out of the solution and were filtered off with DCM. The filtrate was concentrated and purified by RPLC on an acidic Gilson column system. Fractions containing the product were washed with sat. NaHCO3. The product was extracted with DCM. The organic was washed with brine, dried over MgSO4, filtered, and concentrated. The product was purified further by performing a column chromatography using 60:40 DCM:(90:10:1 DCM:MeOH:NH4OH). Yellow solid, N-(4-(6-aminoquinolin-4-ylthio)phenyl)-4-phenylphthalazin-1-amine was obtained.

reactant | N-(4-(6-nitroquinolin-4-ylthio)phenyl)-4-phenylphthalazin-1-amine | 455 μmol, 228 mg | [N+](=O)([O-])C=1C=C2C(=CC=NC2=CC1)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C29H19N5O2S
reactant | tin (II) chloride | 2273 μmol, 431 mg | [Sn](Cl)Cl
reactant | water | 115 uL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(4-(6-aminoquinolin-4-ylthio)phenyl)-4-phenylphthalazin-1-amine | NC=1C=C2C(=CC=NC2=CC1)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C29H21N5S
